Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.57867014313
[C:1]#[C:2][O:3][C:4]#[C:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9],-3.83699473346
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6],4.31864400704
[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]1([H:7])[H:8]>>[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-0.7985141726189999
[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])[H:11],-6.334465896779999
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4],5.32968410042
[H:1]/[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12](/[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],5.7691185885000005
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],3.67277500118
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8].[H:9],1.71287156921
[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.0259711099
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],1.0694084566600002
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[H:8],3.84922582404
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.32927563
[C:1].[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.03632061607
[C:4]#[C:5][H:6].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]#[C:5][H:6],-1.63031912041
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8].[H:9],4.53146733708
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[C:5]([H:6])#[C:7][O:8].[O:1]=[C:2]([H:3])[H:4],0.9656792838
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[O:10][H:11],3.20918681509
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-4.14159167917
[C:1](#[C:2][C:6][O:7][H:8])[H:4].[H:3][C:9](=[C:5])[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([C:6][O:7][H:8])=[C:9][H:10],1.4263171926499998
[C:1]([C:2]([H:3])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])([H:4])([H:6])[H:10].[C:5]=[C:7]([H:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.03625533692
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.64290915045
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.383247704491
[H:1][O:2][C:3](=[C:4])[O:9][C:7](=[C:5][H:6])[H:8]>>[H:1][O:2][c:3]1[c:4][c:5]([H:6])[c:7]([H:8])[o:9]1,-5.037189844719999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.84934260545
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7],1.67727787986
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],3.74713777626
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:3],2.5266056804
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.92684579
[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.46004761453
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.6638232002200002
